US05175157
b) 3-Hydroxymethyl-N-[2-(6-methoxy-naphth-2-yl)-ethyl]-pyrrolidine
A mixture of 3.6 g (29.4 mmol) of 3-hydroxymethyl-pyrrolidine and 4.7 g (14.7 mmol) of 2-(2-bromoethyl)-6-methoxy-naphthalene is heated to 120° C. for 2 hours. The reaction mixture is purified over 200 g of silica gel (0.063-0.2 mm) with methylene chloride and then with increasing amounts of ethanol (up to 5%).

reactant | 3-hydroxymethyl-pyrrolidine | 29.4 mmol, 3.6 g | OCC1CNCC1 | C5H11NO
reactant | 2-(2-bromoethyl)-6-methoxy-naphthalene | 14.7 mmol, 4.7 g | BrCCC1=CC2=CC=C(C=C2C=C1)OC | C13H13BrO
product | 3-Hydroxymethyl-N-[2-(6-methoxy-naphth-2-yl)-ethyl]-pyrrolidine | OCC1CN(CC1)CCC1=CC2=CC=C(C=C2C=C1)OC | C18H23NO2
